US04945021
First, 28 g of 3,6-dimethylpyridazine and 98 g of 3-chloro-4-nitrobenzaldehyde were dissolved in 1.5 liters of acetic anhydride to produce 21 g of 3,6-di(3-chloro-4-nitrostyryl)-pyridazine.

reactant | 3,6-dimethylpyridazine | 28 g | CC=1N=NC(=CC1)C | C6H8N2
reactant | 3-chloro-4-nitrobenzaldehyde | 98 g | ClC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H4ClNO3
solvent | acetic anhydride | 1.5 liters | C(C)(=O)OC(C)=O | C4H6O3
product | 3,6-di(3-chloro-4-nitrostyryl)-pyridazine | 21 g | ClC=1C=C(C=CC=2N=NC(=CC2)C=CC2=CC(=C(C=C2)[N+](=O)[O-])Cl)C=CC1[N+](=O)[O-] | C20H12Cl2N4O4
